US08541411B2
Preparation of methyl 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate
A mixture of methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate prepared as described in Example 26, step d (500 mg, 1.82 mmol), K2CO3 (502 mg, 3.64 mmol) and 1-(bromomethyl)-2-fluoro-3-methylbenzene (389 mg, 1.91 mmol) in DMF (25 mL) was stirred at 80° C. for 18 h. The reaction mixture was cooled, poured into water (100 mL) and extracted with EtOAc (50 mL×3). The combined organic layers were dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel chromatography eluted with EtOAc:MeOH=100:1 to give the desired product (350 mg, 48%) as a red solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.24 (d, 3H, J=1.8 Hz), 2.47 (s, 3H), 3.09 (t, 4H, J=4.8 Hz), 3.75 (t, 4H, J=4.8 Hz), 3.86 (s, 3H), 5.51 (s, 2H), 6.62 (t, 1H, J=7.5 Hz), 7.00 (t, 1H, J=7.5 Hz), 7.22 (t, 1H, J=7.5 Hz), 7.32 (d, 1H, J=2.4 Hz), 7.36 (d, 1H, J=2.4 Hz); LC-MS: m/e=398 [M+1]+

reactant | methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | CC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C14H17N3O3
reactant | K2CO3 | 3.64 mmol, 502 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)-2-fluoro-3-methylbenzene | 1.91 mmol, 389 mg | BrCC1=C(C(=CC=C1)C)F | C8H8BrF
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | 350 mg, 48% | FC1=C(C=CC=C1C)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C | C22H24FN3O3
